US04255332
Lithium clavulanate (5.15 g, estimated purity 95% pfa, 0.025 moles) was dissolved in 45 mls water and cooled in an ice bath. Tripotassium orthophosphate (10.1 mls of 1 M solution; 1.2 equivs) was added in one lot. The solution was seeded with lithium orthophosphate (1 mg) and acetone (20 ml) added over 1/2 hr. By this time a large quantity of lithium phosphate had separated out and the pH dropped from 8.3 to 7.4. The solution was made up to 100 ml with acetone over 20 minutes and was then made up to 800 mls with acetone over a further 10 minutes. The mixture was stirred with celite (2 gms) and filtered. The clear filtrate was added to acetone (1750 mls) over 1 hr. The white solid was filtered off and washed with acetone (3×50 ml) (being careful not to pull dry on the filter), and dried on a fluid bed dryer to yield potassium clavulanate (5 g, 83.0% pfa, 85% recovery).

reactant | Lithium clavulanate | [Li+].C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)[O-]
reactant | Tripotassium orthophosphate | 1 M, 10.1 mls | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | lithium orthophosphate | 1 mg | P(=O)([O-])([O-])[O-].[Li+].[Li+].[Li+]
reactant | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | 45 mls | O | H2O
product | potassium clavulanate | 5 g | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)[O-].[K+] | InChI=1S/C8H9NO5.K/c10-2-1-4-7(8(12)13)9-5(11)3-6(9)14-4;/h1,6-7,10H,2-3H2,(H,12,13);/q;+1/p-1/b4-1-;/t6-,7-;/m1./s1
